US05246935
To a mixture of 1,4-benzodioxan-6-amine (15.1 g; 100 mmol) and triethylamine (20.2 g, 200 ml) in toluene (350 ml) was added dropwise over 10 min. thiophosgene (11.5 g, 100 mmol) in toluene (50 ml). The mixture was stirred at 80° C. for 30 min., cooled to room temperature and filtered. The filtrate was evaporated. The product was redissolved in toluene and concentrated in vacuo. The resulting oil was taken up in warm petroleum ether, which was filtered. The filtrate was concentrated to a small volume, which afforded 7.2 g of 3,4-ethylenedioxyphenylisothiocyanate. 3,4-Ethylenedioxyphenylisothiocyanate (1.1 g; 5.7 mmol) in toluene (15 ml) was added to 3-[4-(2-chlorophenyl)piperazin -1-yl]propylamine (1.45 g, 5.7 mmol) in toluene (45 ml). The mixture was refluxed for 6 h, cooled to room temperature and purified by column chromatography on silica gel 60 eluting with toluene graduated to toluene/ethyl acetate (1:1). The product was triturated with petroleum ether and redissolved in ethanol. Addition of hydrogen chloride in ether precipitated the title compound, which was recrystallized from ethanol to give 180 mg. M.p. 210°-212° C. MS (70 eV): m/z 447 (M+, 1%), 445 (1), 295 (4), 193 (100), 166 (10), 151 (20).

reactant | 1,4-benzodioxan-6-amine | 100 mmol, 15.1 g | O1CCOC2=C1C=CC(=C2)N | C8H9NO2
reactant | triethylamine | 200 ml, 20.2 g | C(C)N(CC)CC | C6H15N
reactant | thiophosgene | 100 mmol, 11.5 g | C(=S)(Cl)Cl | CCl2S
solvent | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 3,4-ethylenedioxyphenylisothiocyanate | 7.2 g | C1OC=2C=C(C=CC2OC1)N=C=S | C9H7NO2S
